US07691850B2
b) (1S)-2-[(3S)-3-(aminomethyl)-1-pyrrolidinyl]-1-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethanol
To a solution of phenylmethyl[((3S)-1-{(2S)-2-hydroxy-2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]carbamate (0.24 g, 0.56 mmole) in MeOH (50 mL) was added Pd(OH)2 (100 mg). The reaction contents were placed under a balloon of H2 and stirred for 18 hours. The reaction contents were filtered through Celite (MeOH) and concentrated under vacuum to give the title compound (0.16 g, 98%) as a light yellow oil: LC-MS (ES) m/e 303 (M+H)+.

reactant | phenylmethyl[((3S)-1-{(2S)-2-hydroxy-2-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethyl}-3-pyrrolidinyl)methyl]carbamate | 0.56 mmole, 0.24 g | C1(=CC=CC=C1)COC(NC[C@H]1CN(CC1)C[C@H](C1=CC=NC2=CC=C(N=C12)OC)O)=O | C24H28N4O4
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd(OH)2 | 100 mg | [OH-].[OH-].[Pd+2]
product | (1S)-2-[(3S)-3-(aminomethyl)-1-pyrrolidinyl]-1-[6-(methyloxy)-1,5-naphthyridin-4-yl]ethanol | 0.16 g, 98% | NC[C@H]1CN(CC1)C[C@@H](O)C1=CC=NC2=CC=C(N=C12)OC | C16H22N4O2
